US06734191B2
To a solution of oxazole (0.285 mL, 4 mmol) in THF (40 mL) at −78° C. was added n-butyllithium (1.83 mL of a 2.4M solution in hexanes, 4.4 mmol) and the reaction stirred for 30 min at −78° C. then zinc chloride (12 mL of 1M solution in THF, 12 mmol) was added. The mixture was then allowed to slowly warm to 0° C. and was stirred for 45 min. A solution of methyl-4-bromobenzoate (0.860 g, 4 mmol) in THF (10 mL) was added followed by a solution of bis-(triphenylphosphine)-palladium (II) chloride (140 mg, 0.2 mmol) and n-butyllithium (0.17 mL of a 2.4M solution in hexanes, 0.4 mmol) in THF (4 mL). The resultant dark brown mixture was warmed to reflux and stirred for 1 h. After cooling, the reaction mixture was diluted with ethyl acetate (30 mL), then washed with water (1×20 mL) and brine (1×20 mL). The organic layer was dried (Na2SO4), filtered, concentrated and purified by chromatography on silica gel (98:2 CH2Cl2/MeOH) to give the desired methyl-4-(oxazol-2-yl)-benzoate (340 mg, 42%) as a yellow oil. 1H NMR (CDC13) δ3.94 (s, 3H), 7.28 (s, 1H), 7.76 (m, 1H), 8.09 (m, 4H).

reactant | oxazole | 4 mmol, 0.285 mL | O1C=NC=C1 | C3H3NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl-4-bromobenzoate | 4 mmol, 0.860 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 12 mmol, 1M, 12 mL | [Cl-].[Zn+2].[Cl-]
catalyst | bis-(triphenylphosphine)-palladium (II) chloride | 0.2 mmol, 140 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | methyl-4-(oxazol-2-yl)-benzoate | 340 mg, 42% | COC(C1=CC=C(C=C1)C=1OC=CN1)=O | C11H9NO3
